US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenyl-4-propylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole (0.3 g) and propyl iodide (0.29 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 14(a) to obtain the title compound (0.22 g, 65%) as a colorless oil.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.3 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
reactant | propyl iodide | 0.29 ml | C(CC)I | C3H7I
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenyl-4-propylisoxazole | 0.22 g, 65% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CCC)C1=CC=CC=C1 | C19H26N2O4
